US06049009
Preparation of (R,E)-4-(tert-butylthio)-3-buten-2-ol
(S)-3,3-diphenyl-1-methyltetrahydro-1H,3H-pyrrolo[1,2-c] [1,3,2] oxazaborol (28 mg, 0.1 mmol) and MS4A (Nacalai Tesque Inc., 500 mg) were dried by a vacuum pump, followed by substituting with an argon gas. To this mixture, (E)-4-(tert-butylthio)-3-buten-2-one (158 mg, 1.0 mmol) and dimethylsulfide (0.22 ml, 3.0 mmol) were added, which were then washed into the mixture with dry toluene (5 ml). After ice cooling, a solution of borane dimethylsulfide complex in toluene (1.07M, 0.65 ml, 0.7 mmol) was dropwise added. After stirring for two hours, an aqueous saturated ammonium chloride solution was added, followed by filtering through a cotton plug. The filtrate was washed with ethyl acetate and, after separating an aqueous layer, the ethyl acetate layer was washed with 2NHCl, water, an aqueous saturated sodium hydrogen carbonate solution, water and saturated brine. After drying with anhydrous magnesium sulfate, the extract containing the titled compound as a main component was obtained by concentrating under a reduced pressure. The NMR chemical shifts of the titled compound are as follows. Further, the HPLC analytical results are shown in Table V.

reactant | (S)-3,3-diphenyl-1-methyltetrahydro-1H,3H-pyrrolo[1,2-c] [1,3,2] oxazaborol | 0.1 mmol, 28 mg | C1(=CC=CC=C1)C1([C@H]2N(B(O1)C)CCC2)C2=CC=CC=C2 | C18H20BNO
reactant | (E)-4-(tert-butylthio)-3-buten-2-one | 1.0 mmol, 158 mg | C(C)(C)(C)S/C=C/C(C)=O | C8H14OS
reactant | dimethylsulfide | 3.0 mmol, 0.22 ml | CSC | C2H6S
reactant | toluene | 0.7 mmol, 1.07M, 0.65 ml | C1(=CC=CC=C1)C | C7H8
reactant | ammonium chloride | [Cl-].[NH4+]
product | (R,E)-4-(tert-butylthio)-3-buten-2-ol | C(C)(C)(C)S/C=C/[C@@H](C)O | C8H16OS
